US07459263B2
First, 2,4′-thiobis(benzoic acid) was prepared. A mixture of 4-iodobenzoic acid (55.7 g, 225 mmol), thiosalicylic acid (34.6 g, 225 mmol), copper powder (15 g, 236 mmol), zinc powder (3 g, 46 mmol), and 2.5 M aqueous sodium hydroxide (400 mL) was heated at reflux for 5 h and then cooled to ambient. The reaction mixture was filtered, and the filtrate was acidified with concentrated HCl. The precipitate was collected and washed with water, then dissolved and filtered. The filtrate was concentrated to deposit 2,4′-thiobis(benzoic acid), mass 50 g (81% of theory).

reactant | 4-iodobenzoic acid | 225 mmol, 55.7 g | IC1=CC=C(C(=O)O)C=C1 | C7H5IO2
reactant | thiosalicylic acid | 225 mmol, 34.6 g | C(C=1C(S)=CC=CC1)(=O)O | C7H6O2S
catalyst | copper | 236 mmol, 15 g | [Cu] | Cu
catalyst | zinc | 46 mmol, 3 g | [Zn] | Zn
solvent | sodium hydroxide | 2.5 M, 400 mL | [OH-].[Na+]
product | 2,4′-thiobis(benzoic acid) | S(C1=CC=C(C(=O)O)C=C1)C1=C(C(=O)O)C=CC=C1 | C14H10O4S
